US05254548
Dissolve in 100 ml of ethanol 0.045 mol (10 g) of N-benzoylvaline obtained in the preceding Step, add 5 ml of concentrated sulphuric acid, then heat at reflux for 24 hours. Evaporate to dryness, take up in ether, wash with water then with a 10% potassium bicarbonate solution, dry, filter and evaporate to dryness. Ethyl N-benzoylvalinate is obtained.

reactant | ethanol | 0.045 mol, 100 ml, 10 g | C(C)O | C2H6O
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-benzoylvaline | C(C1=CC=CC=C1)(=O)N[C@@H](C(C)C)C(=O)O | C12H15NO3
product | Ethyl N-benzoylvalinate | Yield: 71% | C(C1=CC=CC=C1)(=O)N[C@@H](C(C)C)C(=O)OCC | C14H19NO3
